US09145380B2
b) N,N-Diallyl-4-(3-bromophenylsulfonamido)pyridine-3-sulfonamide
A mixture of N,N-diallyl-4-aminopyridine-3-sulfonamide (0.25 g, 1.0 mmol) and cesium carbonate (0.82 g, 2.5 mmol) in tetrahydrofuran (10 mL) was stirred for 5 min, 3-bromobenzenesulfonyl chloride (0.17 mL, 1.2 mmol) was added and the reaction was stirred at room temperature over night. Diluted hydrochloric acid was added and the mixture was extracted with ethyl acetate. The organic phase was dried over magnesium sulfate and the solvent was evaporated. Purification by column chromatography, using chloroform/methanol (95:5) as the eluent, gave the title compound in 72% yield.

reactant | N,N-diallyl-4-aminopyridine-3-sulfonamide | 1.0 mmol, 0.25 g | C(C=C)N(S(=O)(=O)C=1C=NC=CC1N)CC=C | C11H15N3O2S
reactant | cesium carbonate | 2.5 mmol, 0.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-bromobenzenesulfonyl chloride | 1.2 mmol, 0.17 mL | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N,N-Diallyl-4-(3-bromophenylsulfonamido)pyridine-3-sulfonamide | 72% yield | C(C=C)N(S(=O)(=O)C=1C=NC=CC1NS(=O)(=O)C1=CC(=CC=C1)Br)CC=C | C17H18BrN3O4S2
